US04943635
(S)-(-)-α,α-diphenyl-2-pyrrolidinemethanol (378.5 mg, 1.5 mmol) was dissolved in 4.09 mL (4.5 mmol) of BH3.THF (1.1M), and the resulting solution was refluxed for 48 h under argon atmosphere (1 bar). The solvent was removed under vacuum, and the residue was sublimed (150°-160° C./0.1 Torr) to give 258 mg of a crude product. This product (94.1 mg) was resublimed (145°-160° C./0.05 Torr) to give 36.7 mg (0.139 mmol), 25.4% yield) of (S)-5,5-diphenyl-3,4-propano-1,3,2-oxazaborolidine as colorless crystals, mp 107°-124° C.,

reactant | (S)-(-)-α,α-diphenyl-2-pyrrolidinemethanol | 1.5 mmol, 378.5 mg | C1(=CC=CC=C1)C(O)([C@H]1NCCC1)C1=CC=CC=C1 | C17H19NO
reactant | BH3.THF | 4.5 mmol, 1.1M, 4.09 mL | B.C1CCOC1
product | (S)-5,5-diphenyl-3,4-propano-1,3,2-oxazaborolidine | 25.4% yield | C1(=CC=CC=C1)C1([C@H]2N(BO1)CCC2)C2=CC=CC=C2 | C17H18BNO
